US07345067B2
Analogously, to example 1.4, crude [4-(tert-butoxycarbonyl-methyl-amino)-2-chloro-phenoxy]-acetic acid ethyl ester containing [4-(tert-butoxycarbonyl-methyl-amino)-2-chloro-phenoxy]-acetic acid methyl ester was TFA deprotected to give (2-chloro-4-methylamino-phenoxy)-acetic acid ethyl ester containing (2-chloro-4-methylamino-phenoxy)-acetic acid methyl ester, MS: 244 (MH+, 1Cl) and 230 (MH+, 1Cl).

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-chloro-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)Cl)=O | C16H22ClNO5
reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-chloro-phenoxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)Cl)=O | C15H20ClNO5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-chloro-4-methylamino-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)Cl)=O | C11H14ClNO3
